US07812197B2
2-[4-(4-Chloro-1,2-diphenyl-but-1-enyl)-phenoxy]-ethanol (Compound Ib)
4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenol (0.23 g, 0.689 mmol) was dissolved in tetrahydrofuran (3 ml) under nitrogen atmosphere. Sodium hydride (0.025 g, 1.03 mmol) was added to the solution and the mixture was stirred at room temperature for an hour. 2-(2-iodo-ethoxy)-tetrahydropyran (0.3 g, 1.17 mmol) was added and the mixture was refluxed for 2 hours. Additional portions of 2-(2-iodo-ethoxy)-tetrahydro-pyran (0.5 g, 2 mmol) were added to the mixture during seven hours. After cooling and adding water, THF was evaporated and the mixture was extracted three times with ethyl acetate. The organic phase was washed with 2 N aqueous sodium hydroxide and water, dried with sodium sulphate and evaporated to dryness. The residue (which is Compound (IV) where Pr is tetrahydropyranyl) was dissolved in ethanol and acidified with 2 N aqueous hydrogen chloride solution. The mixture was stirred at room temperature over night, evaporated and extracted with dichloromethane. After washing with water the organic phase was dried (Na2SO4) and evaporated. The residue was purified by flash chromatography with dichloromethane/methanol 9.5/0.5 as eluent. Yield 0.17 g, 59%.

reactant | 4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenol | 0.689 mmol, 0.23 g | ClCCC(=C(C1=CC=CC=C1)C1=CC=C(C=C1)O)C1=CC=CC=C1 | C22H19ClO
reactant | Sodium hydride | 1.03 mmol, 0.025 g | [H-].[Na+]
reactant | 2-(2-iodo-ethoxy)-tetrahydropyran | 1.17 mmol, 0.3 g | ICCOC1OCCCC1 | C7H13IO2
reactant | 2-(2-iodo-ethoxy)-tetrahydro-pyran | 2 mmol, 0.5 g | ICCOC1OCCCC1 | C7H13IO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 2-[4-(4-Chloro-1,2-diphenyl-but-1-enyl)-phenoxy]-ethanol | ClCCC(=C(C1=CC=CC=C1)C1=CC=C(OCCO)C=C1)C1=CC=CC=C1 | C24H23ClO2
